US08431575B2
To a stirred solution of (±)-trans-3-fluoro-4-hydroxy-piperidine-1-carboxylic acid benzyl ester (100 mg, 0.4 mmol) at 0° C. in THF (2 mL) was added potassium tert-butoxide (1.0 M in THF, 0.5 mmol, 0.5 mL). After 15 min 3-butyl-6-chloro-4-(4-cyclohexyloxy-phenyl)-pyridazine (120 mg, 0.34 mmol) in THF (2 mL) was added. The solution was stirred overnight at 40° C., diluted with EtOAc and washed with water. The organics were dried over sodium sulfate, filtered, concentrated, and purified by column chromatography using 20-40% EtOAc in hexanes to provide (±)-trans-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-3-fluoro-piperidine-1-carboxylic acid benzyl ester (65 mg).

reactant | (±)-trans-3-fluoro-4-hydroxy-piperidine-1-carboxylic acid benzyl ester | 0.4 mmol, 100 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](CC1)O)F | C13H16FNO3
reactant | potassium tert-butoxide | 0.5 mmol, 1.0 M, 0.5 mL | CC(C)([O-])C.[K+]
reactant | 3-butyl-6-chloro-4-(4-cyclohexyloxy-phenyl)-pyridazine | 0.34 mmol, 120 mg | C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)Cl | C20H25ClN2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-trans-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-3-fluoro-piperidine-1-carboxylic acid benzyl ester | 65 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](CC1)OC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC)F | C33H40FN3O4
